US05246948
Synthesis of 4-[3-(hexanoylamino)propylthio]pyridine
To a solution of 600 mg (2.49 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 1.39 ml (9.96 mmol) of triethylamine in 25 ml of methylene chloride was added 0.42 ml (2.99 mmol) of hexanoyl chloride under ice-cooling with stirring and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with an aqueous saturated sodium bicarbonate solution and water and dried. The solvent was distilled off. The residue was purified by column chromatography (eluent: methanol/ethyl acetate=1:10) to obtain 542 mg of the desired compound (81.7%, pale yellow oil).

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 2.49 mmol, 600 mg | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 9.96 mmol, 1.39 ml | C(C)N(CC)CC | C6H15N
reactant | hexanoyl chloride | 2.99 mmol, 0.42 ml | C(CCCCC)(=O)Cl | C6H11ClO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(hexanoylamino)propylthio]pyridine | 542 mg, 81.7% | C(CCCCC)(=O)NCCCSC1=CC=NC=C1 | C14H22N2OS
